US07629351B2
To a solution of benzyl (S)-1-((1S,2R,4R)-2-acetamido-4-(tert-butylamino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (43.3 g, 98 mmol) in methanol (400 ml), 10% wet Pd/C (4.34 g) was added. The mixture was evacuated and back-filled with hydrogen with a hydrogen balloon. The mixture was stirred at room temperature for 5 h. The mixture was filtered and washed with methanol (500 ml) and concentrated under vacuum to dryness. The crude product obtained was distilled with IPA (2×100 ml) under reduced pressure to give product N-((1R,2S,5R)-2-((S)-3-amino-2-oxopyrrolidin-1-yl)-5-(tert-butylamino)cyclohexyl)acetamide as an oil (30 g, 98% yield). This amine was used in the next step without further purification.

reactant | benzyl (S)-1-((1S,2R,4R)-2-acetamido-4-(tert-butylamino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | 98 mmol, 43.3 g | C(C)(=O)N[C@H]1[C@H](CC[C@H](C1)NC(C)(C)C)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O | C24H36N4O4
solvent | methanol | 400 ml | CO | CH4O
catalyst | Pd/C | 4.34 g | [Pd] | Pd
product | N-((1R,2S,5R)-2-((S)-3-amino-2-oxopyrrolidin-1-yl)-5-(tert-butylamino)cyclohexyl)acetamide | 30 g, 98% yield | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)NC(C)(C)C)NC(C)=O)=O | C16H30N4O2
